US07074787B2
1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-pyrrolidin-2-one
To a solution of (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (4.8 g, 0.015 mol) in pyrrolidon (20 ml) is added sodium hydride (1.93 g, 0.06 mmol of a 75% dispersion in oil) in several portions. The reaction temperature is slowly raised to +150° C. After 30 minutes the heating bath is removed and the mixture is poured onto crushed ice. The reaction mixture is partitioned between ethyl acetate and water. The organic phase is separated, dried over magnesium sulfate, filtered and evaporated under reduced presssure. The residue is purified by silicagel chromatography and recrystallized from ethyl acetate to give the title compound, m.p. 165–166° C.

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.015 mol, 4.8 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | sodium hydride | [H-].[Na+]
reactant | pyrrolidon | 20 ml | N1C(CCC1)=O | C4H7NO
product | 1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-pyrrolidin-2-one | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1C(CCC1)=O | C19H16ClN5O
